US09376454B2
Step 2. Synthesis of (R)-2-hydroxy-3-(2-(pyridin-3-ylmethyl)isoindoline-5-carboxamido)-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from tert-butyl 2-methoxy-3-((2R)-2-(2-(pyridin-3-ylmethyl)isoindoline-5-carboxamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)benzoate and BCl3 following the procedure described in Step 2 of Example 3. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 344 (MH)+.

reactant | tert-butyl 2-methoxy-3-((2R)-2-(2-(pyridin-3-ylmethyl)isoindoline-5-carboxamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)benzoate | COC1=C(C(=O)OC(C)(C)C)C=CC=C1C[C@@H](B1OC2(C3C(C(CC2O1)C3)(C)C)C)NC(=O)C=3C=C1CN(CC1=CC3)CC=3C=NC=CC3 | C39H48BN3O6
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | (R)-2-hydroxy-3-(2-(pyridin-3-ylmethyl)isoindoline-5-carboxamido)-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | OB1OC2=C(C[C@@H]1NC(=O)C=1C=C3CN(CC3=CC1)CC=1C=NC=CC1)C=CC=C2C(=O)O | C24H22BN3O5
